2138-08-20 06:56:00 Physician Resident Progress Note
Chief Complaint: hypoxia, respiratory distress
   77 year old female with Breast Cancer on chemotherapy (last [**8-4**]) who
   presented with fever to 103, generalized weakness, and hypoxia.
   Transferred to ICU for acute worsening in O2 requirement and resp
   distress several hours after bronch this morning.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2138-8-19**] 03:00 PM
   -->Bronchoalveolar lavage
   -->Started on Steroids for presumed PCP [**Name Initial (PRE) 2894**].
   -->Episode of desats to 88 while sleeping.  placed on high flow FM up
   to 60% FiO2 to bring sats up to mid 90s.  Her O2 has been weaned down
   to 6L, and she is tolerating that well.
   SUBJECTIVE:
   Denies SOB, breathing comfortably.  Feels much better compared to
   yesterday.   Patient wishes to have foley out.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2138-8-19**] 04:00 PM
   Azithromycin - [**2138-8-19**] 04:00 PM
   Bactrim (SMX/TMP) - [**2138-8-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-8-19**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-8-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-8-20**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.3
C (97.4
   HR: 72 (67 - 105) bpm
   BP: 105/56(66) {93/42(53) - 126/66(78)} mmHg
   RR: 21 (13 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    490 mL
                                                                     67 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    130 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    430 mL
   Urine:
                                                                  1,030 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                   -363 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 6L
   SpO2: 91%
   ABG: 7.4/37/56/24/0
   Physical Examination
   Gen: lying comfortably in bed, NAD, A&O x3.
   Neck: JVP to 8cm, no tracheal deviation, no LAD
   Lungs:  Crackles heard bilat from the bases to the mid
 lung zones.
   CV: RRR, s1 & s2 nl, no m/r/g
   Abd: +bs, soft, nt, nd, no masses
   Ext: warm, dry, 2 + peripheral pulses bilat.
   Labs / Radiology
   437 K/uL
   10.2 g/dL
   129 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.3 mEq/L
   13 mg/dL
   102 mEq/L
   137 mEq/L
   28.6 %
   14.1 K/uL
        [image002.jpg]
                             [**2138-8-20**]  05:15 AM
   WBC
   14.1
   Hct
   28.6
   Plt
   437
   Cr
   0.8
   Glucose
   129
   Other labs: Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: Bronchial Lavage:
   Imaging:
    ECHO: [**8-20**]
 Conclusions:
   The left atrium is normal in size. Left ventricular wall thicknesses
   are normal. The left ventricular cavity size is normal. Overall left
   ventricular systolic function is low normal (LVEF 50%). There is no
   ventricular septal defect. Right ventricular chamber size and free wall
   motion are normal. The aortic valve leaflets (3) are mildly thickened
   but aortic stenosis is not present. No aortic regurgitation is seen.
   The mitral valve leaflets are mildly thickened. There is no mitral
   valve prolapse. Trivial mitral regurgitation is seen. The pulmonary
   artery systolic pressure could not be determined. There is no
   pericardial effusion.
   CXR: [**2138-8-20**]
 improvement from previous with resolution of previously
   noted asymmetry between right and left lung fields.
   Microbiology: Bronchoalveolar lavage:
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2138-8-19**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
   Gram stain: PMNs, no microorganisms.
   Rapid Respiratory Viral Antigen Test (Final [**2138-8-19**]):
         Respiratory viral antigens not detected.
         CULTURE CONFIRMATION PENDING.
         SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B
   AND
         RSV.
   Urine legionella neg
   C diff neg
   Blood cx NGTD x5
   PROBLEM LIST:
 PULMONARY EDEMA
 CANCER (MALIGNANT NEOPLASM), BREAST
 HYPERTENSION, BENIGN
 HYPOTHYROIDISM
 ANEMIA, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   ASSESSMENT & PLAN:
   77 year old female with Breast Cancer on chemotherapy (last [**8-4**]) who
   presented with fever to 103, generalized weakness, and hypoxia.
   Transferred to ICU for acute worsening in O2 requirement and resp
   distress several hours after bronch this morning.
   #. Acute Hypoxia/Distress: acute worsening of hypoxia is thought to be
   secondary to fluid overload after the BAL or airway edema after the
   lavage.  The acute issue seems to have resolved with lasix diuresis.
   CXR
improved.
   -- echo shows good systolic function.
   -- BP control
   -- lasix 10 mg IV PRN --> will dose according to respiratory status,
   trying to wean from supplemental O2
   #Chronic hypoxia
 high concern re: underlying PCP pneumonia or TB
   pneumonia.  BAL neg for PCP but it is not a very sensitive test in
   patients who are not HIV positive.  Also samples were only taken in one
   area of the lung, often times it is preferred that they are done in 3
   separate areas of the lung.  It is very possible that this patient has
   an underlying PCP [**Name Initial (PRE) 2894**].  Other infectious sources that are being
   considered included TB, atypical bacterias.  Patient had a drop in O2
   sats early this morning for unclear reasons.  Continue to monitor and
   use supplemental O2 PRN.
   --Treat for PCP pna with Bactrim DS Q8 and prednisone 40 mg PO BID ([**3-11**]
   days). (no taper needed)
   --Cover empirically ceftriaxone and azithro for CAP
   -- ID is following patient
   -- BAL results pending
 f-up re: cultures. Negative for viral
   antigens.  AFB pending
   -- Patient on TB precautions
 low suspicion.  [**Month (only) 60**] take off respiratory
   precautions if AFB is neg from BAL.
   # Fever: unclear source at this time. Urine cx is negative. CXR shows
   no focal infiltrate, though there is diffuse infiltrate and CTA was c/f
   GGO.  Fam hx and prior + PPD of TB concerning though less likely than
   PCP, [**Name10 (NameIs) **] hypoxia and diffuse nature of infiltrates. Bld cx ngtd. No
   skin lesions or rash. Diarrhea likley [**3-8**] chemo and resolved, stool
   studies pending. No recent tick bites or travel to [**Location (un) 1409**].
   -- Treating for PNA as above
   -- f/u stool studies  -- r/o for c. diff 2 neg
 need one more.
   #Breast CA: Further treatment per her oncologist
   #Leukocytosis: increased today
 possibly secondary to steroids.
   Patient does not have signs clinically of worsening infection. [**Month (only) 60**] be
   effect of Neulasta as trending down from 29 on [**8-13**]. Will follow.
   #HTN: BP stable currently; hypotension resolved.
   -- cont lisinopril
   #Hyperlipidemia: cont simvastatin
   #Hypothyroidism:
   -- cont levothyroxine 100mcg QD
   #Diarrhea: Likely chemo-related. Now resolved after one day  imodium.
   F/U stool studies.
   # Lung nodules: onc to follow as outpt.
   # Anemia- likely chemo-related, although also iron deficient. At 29 now
   post 2 unit transfusion yesterday.
   -- consider iron supplements; will defer to onc
   -- cont to trend
   # OCD: stable, cont fluoxetine.
   # FEN: no IVF, replete lytes prn, regular diet
   # PPX - ranitidine [**Hospital1 **]; SQH; holding bowel reg as pt was just having
   diarrhea
 consider restarting if no BM in few days.
   #Code: FULL, confirmed on transfer
   #Dispo- to remain in ICU o/n for further tx and observation; may call
   out to floor in PM if stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-8-19**] 02:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-08-21 06:21:00 Physician Resident Progress Note
Chief Complaint: respiratory distress with increased O2 requirement
   24 Hour Events:
   ID recommendations: check betaglucan; if neg can d/c steroids; if
   positive continue until BAL cultures are finalized.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2138-8-20**] 08:17 AM
   Ceftriaxone - [**2138-8-20**] 08:00 PM
   Bactrim (SMX/TMP) - [**2138-8-20**] 11:54 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2138-8-20**] 08:00 PM
   Furosemide (Lasix) - [**2138-8-20**] 11:52 PM
   Heparin Sodium (Prophylaxis) - [**2138-8-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-8-21**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 74 (67 - 99) bpm
   BP: 117/59(73) {87/31(50) - 132/105(111)} mmHg
   RR: 29 (17 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    740 mL
                  PO:
                                                                    520 mL
                  TF:
   IVF:
                                                                    220 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    390 mL
   Urine:
                                                                  1,440 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -700 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   537 K/uL
   9.7 g/dL
   153 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.8 mEq/L
   22 mg/dL
   104 mEq/L
   136 mEq/L
   28.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2138-8-20**]  05:15 AM
                             [**2138-8-20**]  04:10 PM
                             [**2138-8-21**]  05:28 AM
   WBC
   14.1
   15.9
   Hct
   28.6
   28.1
   Plt
   437
   537
   Cr
   0.8
   0.8
   0.8
   Glucose
   129
   112
   153
   Other labs: Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   ECHO: [**8-20**]
 Conclusions:
   The left atrium is normal in size. Left ventricular wall thicknesses
   are normal. The left ventricular cavity size is normal. Overall left
   ventricular systolic function is low normal (LVEF 50%). There is no
   ventricular septal defect. Right ventricular chamber size and free wall
   motion are normal. The aortic valve leaflets (3) are mildly thickened
   but aortic stenosis is not present. No aortic regurgitation is seen.
   The mitral valve leaflets are mildly thickened. There is no mitral
   valve prolapse. Trivial mitral regurgitation is seen. The pulmonary
   artery systolic pressure could not be determined. There is no
   pericardial effusion.
   CXR: [**2138-8-20**]
 improvement from previous with resolution of previously
   noted asymmetry between right and left lung fields.
   Microbiology: Bronchoalveolar lavage:
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2138-8-19**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
   Gram stain: PMNs, no microorganisms.
   Rapid Respiratory Viral Antigen Test (Final [**2138-8-19**]):
         Respiratory viral antigens not detected.
         CULTURE CONFIRMATION PENDING.
         SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B
   AND
         RSV.
   [**2138-8-17**] Urine legionella neg
   [**2138-8-18**] C diff neg
   [**2138-8-17**] Blood cx: pending
   Assessment and Plan
 PULMONARY EDEMA
 CANCER (MALIGNANT NEOPLASM), BREAST
 HYPERTENSION, BENIGN
 HYPOTHYROIDISM
 ANEMIA, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   77 year old female with Breast Cancer on chemotherapy (last [**8-4**]) who
   presented with fever to 103, generalized weakness, and hypoxia.
   Transferred to ICU for acute worsening in O2 requirement and resp
   distress several hours after bronch this morning.
   #. Acute Hypoxia/Distress: acute worsening of hypoxia is thought to be
   secondary to fluid overload after the BAL or airway edema after the
   lavage.  The acute issue seems to have resolved with lasix diuresis.
   CXR
improved.
   -- echo shows good systolic function.
   -- BP control
   -- lasix 10 mg IV PRN --> will dose according to respiratory status,
   trying to wean from supplemental O2
   #Chronic hypoxia
 high concern re: underlying PCP pneumonia or TB
   pneumonia.  BAL neg for PCP but it is not a very sensitive test in
   patients who are not HIV positive.  Also samples were only taken in one
   area of the lung, often times it is preferred that they are done in 3
   separate areas of the lung.  It is very possible that this patient has
   an underlying PCP [**Name Initial (PRE) 2894**].  Other infectious sources that are being
   considered included TB, atypical bacterias.
   --Treat for PCP pna with Bactrim DS Q8 and prednisone 40 mg PO BID ([**4-9**]
   days). (no taper needed)
   --Cover empirically ceftriaxone and azithro for CAP
   -- ID is following patient
   -- BAL results pending
 f-up re: cultures. Negative for viral
   antigens.  AFB pending
   -- Patient on TB precautions
 low suspicion.  [**Month (only) 60**] take off respiratory
   precautions if AFB is neg from BAL.
   # Fever: unclear source at this time. Urine cx is negative. CXR shows
   no focal infiltrate, though there is diffuse infiltrate and CTA was c/f
   GGO.  Fam hx and prior + PPD of TB concerning though less likely than
   PCP, [**Name10 (NameIs) **] hypoxia and diffuse nature of infiltrates. Bld cx ngtd. No
   skin lesions or rash. Diarrhea likley [**3-8**] chemo and resolved, stool
   studies pending. No recent tick bites or travel to [**Location (un) 1409**].
   -- Treating for PNA as above
   -- f/u stool studies  -- r/o for c. diff 2 neg
 need one more.
   #Breast CA: Further treatment per her oncologist
   #Leukocytosis: increased today
 possibly secondary to steroids.
   Patient does not have signs clinically of worsening infection. [**Month (only) 60**] be
   effect of Neulasta as trending down from 29 on [**8-13**]. Will follow.
   #HTN: BP stable currently; hypotension resolved.
   -- cont lisinopril
   #Hyperlipidemia: cont simvastatin
   #Hypothyroidism:
   -- cont levothyroxine 100mcg QD
   #Diarrhea: Likely chemo-related. Now resolved after one day  imodium.
   F/U stool studies.
   # Lung nodules: onc to follow as outpt.
   # Anemia- likely chemo-related, although also iron deficient. At 29 now
   post 2 unit transfusion yesterday.
   -- consider iron supplements; will defer to onc
   -- cont to trend
   # OCD: stable, cont fluoxetine.
   # FEN: no IVF, replete lytes prn, regular diet
   # PPX - ranitidine [**Hospital1 **]; SQH; holding bowel reg as pt was just having
   diarrhea
 consider restarting if no BM in few days.
   #Code: FULL, confirmed on transfer
   #Dispo- to remain in ICU o/n for further tx and observation; may call
   out to floor in PM if stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-8-19**] 02:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-08-21 11:03:00 Physician Attending Progress Note
Chief Complaint: Pulmonary Edema/Respiratory Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   1)Patient with continued improvement in respiratory distress
   2)BAL negative to date
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2138-8-20**] 08:00 PM
   Bactrim (SMX/TMP) - [**2138-8-20**] 11:54 PM
   Azithromycin - [**2138-8-21**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-8-20**] 11:52 PM
   Ranitidine (Prophylaxis) - [**2138-8-21**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2138-8-21**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-8-21**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.4
   HR: 91 (73 - 99) bpm
   BP: 117/69(76) {98/31(50) - 149/105(111)} mmHg
   RR: 19 (17 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    740 mL
                                                                    120 mL
   PO:
                                                                    520 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    220 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    700 mL
   Urine:
                                                                  1,440 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -700 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   537 K/uL
   153 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.8 mEq/L
   22 mg/dL
   104 mEq/L
   136 mEq/L
   28.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2138-8-20**]  05:15 AM
                             [**2138-8-20**]  04:10 PM
                             [**2138-8-21**]  05:28 AM
   WBC
   14.1
   15.9
   Hct
   28.6
   28.1
   Plt
   437
   537
   Cr
   0.8
   0.8
   0.8
   Glucose
   129
   112
   153
   Other labs: Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: BAL-neg PCP
         [**Name9 (PRE) **] AFB
        [**Name9 (PRE) 3640**] AG neg
   Cultures--pending
   Legionella negative
   Assessment and Plan
   77 yo female with history of breast CA now admit to ICU with signficant
   respiratory distress and pulmonary edema.  She had ongoing evaluation
   for source of diffuse pulmonary interstiitial infiltrates and cough but
   with persistent hypoxemia.  The improvement is partial with negative
   fluid balance maintained.  She still does maintain tenuous oxygenation
   with quick desaturations with any ambulation or recurrence of decreased
   FIO2
 PULMONARY EDEMA--ACUTE
   -continued negative fluid balance but may be approaching euvolemia.
   This leaves the acute pulmonary edema only one part of the explanation
   Pulmonary Infiltrates-Ddx led by atypical bacterial infection,
   nocardia/atypical mycobacteria, PCP being considered and not clear as
   to source and will need further evaluation.  TB has been raised as a
   possibility and has had negative smear on BAL.
   CTX/Azithro
empiric course
   Bactrim/Prednisone
in place and will consider D/C with further testing
   negative (B-glucan)
   MTB considered and BAL negative
will discuss with ID the concern for
   need of further sampling of airways
sensitivity of BAL should be
   similar to that of 3 sputum samples and will discuss with infection
   control D/C of isolation
   Non-specific pneumonitis (possible medication related) is on the list
   of possibilities and that should improve if present with steroid Rx
   -Will repeat CXR
 CANCER (MALIGNANT NEOPLASM), BREAST
 HYPERTENSION, BENIGN
 HYPOTHYROIDISM
 ANEMIA, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin SS
   Lines:
   20 Gauge - [**2138-8-19**] 02:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2138-08-22 06:52:00 Physician Resident Progress Note
Chief Complaint: Hypoxic resp failure
   24 Hour Events:
   Rec
d 10 mg IV lasix x 2; -2 L since MN [**8-21**], -3L LOS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2138-8-21**] 08:30 AM
   Ceftriaxone - [**2138-8-21**] 08:00 PM
   Bactrim (SMX/TMP) - [**2138-8-22**] 12:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2138-8-21**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2138-8-22**] 12:00 AM
   Furosemide (Lasix) - [**2138-8-22**] 01:24 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Reports loose cough with scant nonpurulent sputum
   production, mild orthopnea. No CP, SOB, wheezing, abd pain, N/V/D.
   Flowsheet Data as of  [**2138-8-22**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 77 (73 - 98) bpm
   BP: 118/64(77) {111/50(66) - 149/71(95)} mmHg
   RR: 17 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    650 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    760 mL
   Urine:
                                                                  1,775 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,125 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96% 5 L
   Physical Examination
   GEN: Awake, alert, comfortable lying flat on side
   CV: RRR nl S1S2 no m/r/g
   PULM:
   Labs / Radiology
   537 K/uL
   9.7 g/dL
   153 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.8 mEq/L
   22 mg/dL
   104 mEq/L
   136 mEq/L
   28.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2138-8-20**]  05:15 AM
                             [**2138-8-20**]  04:10 PM
                             [**2138-8-21**]  05:28 AM
   WBC
   14.1
   15.9
   Hct
   28.6
   28.1
   Plt
   437
   537
   Cr
   0.8
   0.8
   0.8
   Glucose
   129
   112
   153
   Other labs: Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   77 y/o F w/ breast CA s/p chemo a/w fever, hypoxia, transferred to ICU
   for hypoxic resp failure [**3-8**].  Volume overload improving adequately
   with diuresis, but likely there is still an underlying yet unidentified
   infectious process.
   .
    PULMONARY EDEMA--ACUTE
   -continued negative fluid balance but may be approaching euvolemia.
   This leaves the acute pulmonary edema only one part of the explanation
   Pulmonary Infiltrates-Ddx led by atypical bacterial infection,
   nocardia/atypical mycobacteria, PCP being considered and not clear as
   to source and will need further evaluation.  TB has been raised as a
   possibility and has had negative smear on BAL.
   CTX/Azithro
empiric course
   Bactrim/Prednisone
in place and will consider D/C with further testing
   negative (B-glucan)
   MTB considered and BAL negative
will discuss with ID the concern for
   need of further sampling of airways
sensitivity of BAL should be
   similar to that of 3 sputum samples and will discuss with infection
   control D/C of isolation
   Non-specific pneumonitis (possible medication related) is on the list
   of possibilities and that should improve if present with steroid Rx
   -Will repeat CXR
   #. Acute Hypoxia/Distress: acute worsening of hypoxia is thought to be
   secondary to fluid overload after the BAL or airway edema after the
   lavage.  The acute issue seems to have resolved with lasix diuresis.
   CXR
improved.
   -- echo shows good systolic function.
   -- BP control
   -- lasix 10 mg IV PRN --> will dose according to respiratory status,
   trying to wean from supplemental O2
   #Chronic hypoxia
 high concern re: underlying PCP pneumonia or TB
   pneumonia.  BAL neg for PCP but it is not a very sensitive test in
   patients who are not HIV positive.  Also samples were only taken in one
   area of the lung, often times it is preferred that they are done in 3
   separate areas of the lung.  It is very possible that this patient has
   an underlying PCP [**Name Initial (PRE) 2894**].  Other infectious sources that are being
   considered included TB, atypical bacteria.
   --Treat for PCP pna with Bactrim DS Q8 and prednisone 40 mg PO BID ([**4-9**]
   days). (no taper needed)
   --Cover empirically ceftriaxone and azithro for CAP
   -- ID is following patient
   -- BAL results pending
 f-up re: cultures. Negative for viral
   antigens.  AFB pending
   -- TB precautions can be discontinued d/t no AFB seen on BAL, PPD
   negative
   # Fever: unclear source at this time. Urine cx is negative. CXR shows
   no focal infiltrate, though there is diffuse infiltrate and CTA was c/f
   GGO.  Fam hx and prior + PPD of TB concerning though less likely than
   PCP, [**Name10 (NameIs) **] hypoxia and diffuse nature of infiltrates. Bld cx ngtd. No
   skin lesions or rash. Diarrhea likley [**3-8**] chemo and resolved, stool
   studies pending. No recent tick bites or travel to [**Location (un) 1409**].
   -- Treating for PNA as above
   -- f/u stool studies  -- r/o for c. diff 2 neg
 need one more.
   #Breast CA: Further treatment per her oncologist
   #Leukocytosis: increased today
 possibly secondary to steroids.
   Patient does not have signs clinically of worsening infection. [**Month (only) 60**] be
   effect of Neulasta as trending down from 29 on [**8-13**]. Will follow.
   #HTN: BP stable currently; hypotension resolved.
   -- cont lisinopril
   #Hyperlipidemia: cont simvastatin
   #Hypothyroidism:
   -- cont levothyroxine 100mcg QD
   #Diarrhea: Likely chemo-related. Now resolved after one day  imodium.
   F/U stool studies.
   # Lung nodules: onc to follow as outpt.
   # Anemia- likely chemo-related, although also iron deficient. At 29 now
   post 2 unit transfusion yesterday.
   -- consider iron supplements; will defer to onc
   -- cont to trend
   # OCD: stable, cont fluoxetine.
   # FEN: no IVF, replete lytes prn, regular diet , SSI while on steroids
   # PPX - ranitidine daily; SQH; holding bowel reg as pt was just having
   diarrhea
 consider restarting if no BM in few days.
   #Code: FULL, confirmed on transfer
   #Dispo- to remain in ICU until decreased supplemental O2 requirements
   (goal <4L NC to send to floor)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-8-21**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-08-22 11:34:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia and respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Negative fluid balance overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2138-8-21**] 08:30 AM
   Ceftriaxone - [**2138-8-21**] 08:00 PM
   Bactrim (SMX/TMP) - [**2138-8-22**] 09:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-8-22**] 01:24 AM
   Ranitidine (Prophylaxis) - [**2138-8-22**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2138-8-22**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2138-8-22**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 85 (73 - 98) bpm
   BP: 125/48(67) {111/48(66) - 132/69(83)} mmHg
   RR: 23 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    650 mL
                                                                    480 mL
   PO:
                                                                    600 mL
                                                                    480 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                  1,186 mL
   Urine:
                                                                  1,775 mL
                                                                  1,186 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,125 mL
                                                                   -706 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : only at base)
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   679 K/uL
   126 mg/dL
   0.9 mg/dL
   25 mEq/L
   5.2 mEq/L
   25 mg/dL
   102 mEq/L
   138 mEq/L
   30.0 %
   15.4 K/uL
        [image002.jpg]
                             [**2138-8-20**]  05:15 AM
                             [**2138-8-20**]  04:10 PM
                             [**2138-8-21**]  05:28 AM
                             [**2138-8-22**]  06:14 AM
   WBC
   14.1
   15.9
   15.4
   Hct
   28.6
   28.1
   30.0
   Plt
   437
   537
   679
   Cr
   0.8
   0.8
   0.8
   0.9
   Glucose
   129
   112
   153
   126
   Other labs: Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:5.0 mg/dL
   Microbiology: ALL CULTURES NEGATIVE TO DATE
   B-glucan assay pending
   Assessment and Plan
   77yo female with history of breast CA admit with diffuse pulmonary
   infiltrates and Rx for hypoxemia being driven by gentle diuresis
 PULMONARY EDEMA
Difficult to assess for definative
   source
non-cardiogenic edema from pneumonitis is most likely.  She has
   had tolerance of negative fluid balance and this should continue today.
   -negative fluid balance today
   -Will have to consider taper of Prednisone if there is significant
   concern for pneumonitis driving a component of this and if so
taper
   would be best.
 CANCER (MALIGNANT NEOPLASM), BREAST
   breast ca
 HYPERTENSION, BENIGN
 HYPOTHYROIDISM
 ANEMIA, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Bactrim TID
   CTX
   Pred 40mg [**Hospital1 **]
   -Will check B-glucan to further evaluate and refine the diagnostic
   possibilities but at this point are treating for PCP in the setting of
   significant hypoxemia.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2138-8-21**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :TO Floor
   Total time spent: 35 minutes